US06242470B1
N-(4-Methoxy-2-methylphenyl)-tricyclo[3.3.1.13,7]decane-1-acetamide
Prepared according to the method of Example 1b) from 1-adamantaneacetyl chloride (2.0 g) and 4-methoxy-2-methylaniline (1.29 g) to give the title compound as a white solid (1.37 g).

reactant | 1-adamantaneacetyl chloride | 2.0 g | C12(CC3CC(CC(C1)C3)C2)CC(=O)Cl | C12H17ClO
reactant | 4-methoxy-2-methylaniline | 1.29 g | COC1=CC(=C(N)C=C1)C | C8H11NO
product | N-(4-Methoxy-2-methylphenyl)-tricyclo[3.3.1.13,7]decane-1-acetamide | 1.37 g | COC1=CC(=C(C=C1)NC(CC12CC3CC(CC(C1)C3)C2)=O)C | C20H27NO2
